US09107964B2
2,2-Dimethyl-5-fluoromethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane was dissolved in 0.5 mL of acetonitrile, 0.5 mL of 1 mol/L hydrochloric acid was added thereto, and the mixture was stirred at 80° C. for 30 minutes. After completion of the reaction, the mixture was concentrated under vacuum to give a trace amount of 1-(3,3-dihydroxymethyl-4-fluorobutyl)-2-nitroimidazole.

reactant | 2,2-Dimethyl-5-fluoromethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane | CC1(OCC(CO1)(CCN1C(=NC=C1)[N+](=O)[O-])CF)C | C12H18FN3O4
reactant | hydrochloric acid | 1 mol/L, 0.5 mL | Cl | ClH
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 1-(3,3-dihydroxymethyl-4-fluorobutyl)-2-nitroimidazole | OCC(CCN1C(=NC=C1)[N+](=O)[O-])(CF)CO | C9H14FN3O4
